US04113951
First step: 5-acetamido 4,7-dimethoxy 6-(2-piperidino ethoxy) benzofuran hydrochlorate. Code number: 740 745
A mixture of 25.1 g (0.1 mole) of 5-acetamido 4,7-dimethoxy 6-hydroxy benzofuran, 22.2 g (0.15 mole) of 2-piperidino chlorethane and 41.6 g (0.3 mole) of potassium carbonate in 250 ml of acetone was brought to reflux for 2 hours. Then it was filtered, the solvent evaporated, the residue obtained was taken up again in acetone and 20 ml of 7 N hydrochloric ethanol were added. It was filtered and recrystallized in 400 ml of propanol.

reactant | 5-acetamido 4,7-dimethoxy 6-hydroxy benzofuran | 0.1 mole, 25.1 g | C(C)(=O)NC=1C(=C(C2=C(C=CO2)C1OC)OC)O | C12H13NO5
reactant | 2-piperidino chlorethane | 0.15 mole, 22.2 g | N1(CCCCC1)CCCl | C7H14ClN
reactant | potassium carbonate | 0.3 mole, 41.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 7 N, 20 ml | C(C)O | C2H6O
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 5-acetamido 4,7-dimethoxy 6-(2-piperidino ethoxy) benzofuran | C(C)(=O)NC=1C(=C(C2=C(C=CO2)C1OC)OC)OCCN1CCCCC1 | C19H26N2O5
